US04410539
A mixture of 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid (5.80 g.), ethanol (500 ml.) and concentrated sulphuric acid (2 ml.) was heated under reflux for 48 hours, and then evaporated. Dilute aqueous ammonia solution was added and the solid was filtered off, washed well with water and dried to give 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid ethyl ester (5.70 g.), m.p. 87°-88° C., raised to 88°-89° on crystallization from petrol (b.p. 80°-100°).

reactant | 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid | 5.80 g | BrC1=CC2=C(SC(=C2C)C(=O)O)C=C1 | C10H7BrO2S
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid ethyl ester | 5.70 g | C(C)OC(=O)C1=C(C2=C(S1)C=CC(=C2)Br)C | C12H11BrO2S
